US09334286B2
Preparation 58: 7-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1,6-naphthyridine
7-Bromo-2-chloro-1,6-naphthyridine (Preparation 61, 44.5 mg 0.183 mmole) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (53.4 mg 0.256 mmole) were stirred in THF (1 mL) and 2M aqueous sodium carbonate solution (0.35 mL) was added. Palladium(dppf)dichloride.dichloromethane complex (4.0 mg, 0.0049 mmole) was added and the reaction heated at 60° C. for 4.5 hours under nitrogen. The reaction was diluted with ethyl acetate (15 mL) and the solution was washed with brine (7 mL). The brine was backwashed with ethyl acetate (7 mL) and the combined organic layers were dried and concentrated in vacuo. The residue was purified using preparative TLC eluting with EtOAc to afford the title compound (29 mg, 54%).

reactant | 7-Bromo-2-chloro-1,6-naphthyridine | 0.183 mmole, 44.5 mg | BrC1=NC=C2C=CC(=NC2=C1)Cl | C8H4BrClN2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.256 mmole, 53.4 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | sodium carbonate | 2M, 0.35 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 7-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1,6-naphthyridine | 29 mg, 54% | BrC1=NC=C2C=CC(=NC2=C1)C=1C=NN(C1)C | C12H9BrN4
